US04539410
The starting material is prepared as follows: 5-Chloroindole (4.00 g) is added to a mixture of 40% aqueous dimethylamine (4.5 ml), and 37% aqueous formaldehyde (2.6 ml) in glacial acetic acid (6.4 ml) while stirring at 10°. The cooling bath is removed and the mixture stirred at room temperature for 3 hours. The mixture is made basic with ammonium hydroxide whereupon a precipitate is formed. The solid is collected, washed with water and dried to give 5-chloro gramine, m.p. 149°-151°.

reactant | 5-Chloroindole | 4.00 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | dimethylamine | 4.5 ml | CNC | C2H7N
reactant | formaldehyde | 2.6 ml | C=O | CH2O
solvent | acetic acid | 6.4 ml | C(C)(=O)O | C2H4O2
product | 5-chloro gramine | CN(C)CC1=CNC2=C1C=C(C=C2)Cl | C11H13ClN2
